Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bcg (Bacillus ___) / Influenza Virus Vaccine
 
Attending: ___
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
CABG, MVR
 
History of Present Illness:
___ y/o woman with PMHx significant for CAD s/p CABG ___ 
(occluded SVG to OM and SVG to PDA grafts, occluded LIMA to LAD, 
occluded RCA and occluded LCx stent), PCI ___, sCHF (EF 35%), 
NSTEMI ___ and multiple GIBs requiring transfusions who was 
admitted to ___ ___ for scheduled CABG and MVR who was found 
to have an LV aneurysm and HCT 16. She was taken off the OR 
table and sent to the VICU, where she was transfused 4U pRBCs 
with appropriate response. She was recently discharged from 
___ ___ for CHF exacerbation and has been in her USOH. 
She denies recent CP/SOB/N/V/D/BRBPR, hematemesis or hemoptysis. 
She has had melanotic stools, though she notes these are chronic 
and likely related to her FeSO4 supplementation. EGD on ___ 
showed non bleeding varicies of the esophagus and fundus and 
gastritis. Colonoscopy from the same day showed multiple benign 
polyps and cecal AVMs, one of which was biopsied. 
.  
On arrival to the floor, patient denies CP/SOB/N/V, 
lightheadedness or palpitations. No e/o active or ongoing 
bleeding.
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: Hypertension  
2. CARDIAC HISTORY:  
-CABG:  CAD s/p CABG ___ (occluded SVG to OM and SVG to PDA 
grafts, occluded LIMA to LAD, occluded RCA and occluded LCx 
stent)
-PERCUTANEOUS CORONARY INTERVENTIONS: PCI ___ to LCx c/b in 
stent thrombosis s/p baloon angioplasty
-PACING/ICD: None 
3. OTHER PAST MEDICAL HISTORY:  
-NSTEMI ___
-GI bleeds with multiple prior transfusions in past year
-s/p chole with hernia at incision site
-Anemia
-Hypothyroidism
-Depression.
-GERD.
-TB exposure.
-Depression.

 
Social History:
___
Family History:
Patient does not know her family history.
Parents died when she was young.  
 
Physical Exam:
Admission Exam: 
VS: T 98 BP 110/80 HR 70 RR 20 O2 Sat 95% RA
GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple, unable to asses JVP ___ R IJ TLC
CARDIAC: RR, normal S1, S2. II/VI non radiating systolic murmur 
best heart at the RUSB. No thrills, lifts. No S3 or S4. PMI 
located in ___ intercostal space, midclavicular line.  
LUNGS: CTAB,crackles at the bases, no wheezes or rhonchi. No 
chest wall deformities, scoliosis or kyphosis. Resp were 
unlabored, no accessory muscle use.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: WWP, trace BLE edema  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
NEURO: A/Ox3, CN II-XII intact, non focal.
.
Discharge Exam:
Wt 67.4->65.6->65.8->66.1->64.7
Tele: No events
VS: T ___ BP 99-121/50s-60s HR ___ RR 18 O2 Sat 96% RA
GEN: NAD, pleasant   
HEENT: NCAT. MMM. 
NECK: Supple, unable to asses JVP ___ R IJ TLC
CARDIAC: RR, normal S1, S2. II/VI non radiating systolic murmur 
best heart at the RUSB, heard throughout the precordium, rads to 
axilla. No thrills, lifts. No S3 or S4. 
LUNGS: CTAB, no wheezes, rales or rhonchi. No increased WOB
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: WWP, no c/c/e.  
NEURO: A/Ox3, CN II-XII intact, non focal. 

 
Pertinent Results:
Admission Labs:

___ 09:48AM BLOOD WBC-5.1# RBC-2.64* Hgb-8.3* Hct-25.8* 
MCV-98 MCH-31.4 MCHC-32.2 RDW-18.5* Plt ___
___ 09:48AM BLOOD Neuts-75.4* ___ Monos-4.4 Eos-1.3 
Baso-0.5
___ 09:48AM BLOOD ___ PTT-27.6 ___
___ 02:09PM BLOOD Ret Aut-4.4*
___ 09:48AM BLOOD Glucose-128* UreaN-51* Creat-1.1 Na-136 
K-4.1 Cl-103 HCO3-25 AnGap-12
___ 09:48AM BLOOD ALT-31 AST-44* AlkPhos-144* TotBili-0.6
___ 09:48AM BLOOD Albumin-3.1* Calcium-8.2* Phos-5.6* 
Mg-2.2
___ 06:30AM BLOOD calTIBC-467 VitB12-491 Folate-GREATER TH 
Ferritn-47 TRF-359
___ 07:38AM BLOOD Type-ART pO2-395* pCO2-38 pH-7.42 
calTCO2-25 Base XS-0 Intubat-INTUBATED Vent-CONTROLLED
___ 07:38AM BLOOD Glucose-115* Lactate-2.2* Na-134 K-3.5 
Cl-102
___ 07:38AM BLOOD Hgb-5.4* calcHCT-16
___ 07:46AM BLOOD Hgb-5.4* calcHCT-16
___ 07:38AM BLOOD freeCa-1.08*
.
Discharge Labs:

___ 05:13AM BLOOD WBC-3.6* RBC-2.70* Hgb-8.4* Hct-26.0* 
MCV-96 MCH-31.0 MCHC-32.3 RDW-16.5* Plt ___
___ 05:13AM BLOOD Glucose-94 UreaN-29* Creat-1.0 Na-138 
K-4.0 Cl-100 HCO3-32 AnGap-10
.
TTE (___):
There is a left ventricular aneurysm involving the basal 
inferior, posterior, and lateral walls. NO thrombus seen on 
contrast imaging with Optison. LV systolic function appears 
severely depressed (see report of ___ for details). 
The mitral valve leaflets are mildly thickened. An eccentric, 
posteriorly directed jet of severe (4+) mitral regurgitation is 
seen.  
.
Cardiac MRI (___): Read Pending
.
KUB (___): 
FINDINGS: A single frontal view of the abdomen shows a round 
radiopaque 
density in the lower mid abdomen, which is likely the capsule in 
or close to the rectosigmoid junction. There are surgical clips 
in the right upper 
quadrant. There is a nonobstructive gas pattern. There are 
vascular 
calcifications. 
  
IMPRESSION: Capsule present around the rectosigmoid junction. 

 
Brief Hospital Course:
Primary Reason for Admission: ___ y/o woman with PMHx significant 
for CAD s/p CABG ___ (occluded SVG to OM and SVG to PDA grafts, 
occluded LIMA to LAD, occluded RCA and occluded LCx stent), PCI 
___, ___ (EF 35-40%), NSTEMI ___ and multiple GIBs requiring 
transfusions who was admitted to ___ ___ for scheduled CABG 
and MVR who was found to have an LV aneurysm and HCT 16 now 
admitted to ___ for workup of anemia and further eval of LV 
aneurysm.
.
Active Problems:
.
# Anemia: Pt was found to have HCT of 16 on pre-op ABG. Given 
extensive h/o GIBs requiring transfusion and the acuity of her 
HCT drop, GIB is the most likely cause of her anemia. She was 
transfused 4U pRBCs with appropriate repsonse and admitted to 
___. The pt was guiac negative and denied BRBPR, hematemesis or 
hemoptysis. She did endorse melana, though she takes oral FeSO4 
supplementation. On ___ pt had a melanotic BM that was 
guiac positive. GI was consulted and recommended capsule 
endoscopy to r/o small bowel source. Capsule study was 
unremarkable, but of poor quality. Push enteroscopy was then 
performed and showed angioectasias in the proximal jejunum and 
mid jejunum (thermal therapy), as well as esophageal/gastric 
varicies and gastritis (no active bleeding). Fe, folate, B12, 
haptoglobin and reticulocyte count were all appropriate and the 
pt's HCT remained stable throughout the remainder of her course. 
Ultimately, her anemia was felt to be ___ GIB, though we were 
unable to find an actively bleeding source. Given her HCT 
remained stable after her initial presentation, this is 
compatible with a self-limited GIB. She was discharged home. 
.
# CAD: Pt remained CP free througout her course and her 
medications were continued. She was discharged home with 
instructions to return to the hosptial next week for elective 
CABG. 
.
# LV Aneurysm: Pt was noted to have an LV aneurysm on pre-op 
TEE. TTE was performed on ___ that conformed presence of 
aneurysm and was negative for mural thrombus. On ___, 
Cardiac MRI was preformed; final read was pending at the time of 
discharge. 
.
# CHF: Pt with EF 25%. She received a large osmotic load with 4U 
pRBCs and was diuresed with Lasix 20mg IV x2 upon arrival to the 
floor. She responded well to the lasix and was euvolemic s/p 
diuresis. She remained comfortable on RA throughout her course, 
and there was no clinical evidence of CHF exacerbation during 
her stay. 
.
Chronic Problems:
.
# MR: Pt with known, severe MR. ___ the setting of EF 25%, she 
would benefit from MVR to improve forward flow and quality of 
life. This is planned to coincide with CABG. 
.
# Cirrhosis: Pt with known Primary Biliary Cirrhosis; her 
ursodiol 500mg po bid 
was continued throughout her course. 
.
# Hypothyroidism: Her levothyroxine was continued throughout her 
course. 
.
Transitional Issues: Pt remained stable througout her course. 
She was d/c'ed home with plan for elective CABG next week. She 
has cards/GI follow up. 
 
Medications on Admission:
allopurinol ___ mg BID
digoxin 125 mcg
folic acid 1 mg
vicodin prn
levothyroxine 150 mcg
lisinopril 2.5 mg
lorazepam 0.5 mg BID
metoprolol succinate 25 mg daily
Nitroglycerin PRN
Zoloft 50 mg daily
torsemide 20 mg, 30 mg for the past few days
colace 100 mg BID
ferrous sulfate 325 mg daily
sulcralfate 1 g bid 
aspirin 325 mg daily
ursodiol 500 mg twice a day
pravastatin 20 mg daily
pantoprazole 40 mg BID

 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.  
6. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
7. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain: 
as previously prescribed.  call md or 911 if take them.  
8. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. torsemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
11. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. sucralfate 1 gram Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
13. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. ursodiol 250 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
15. pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
17. lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Priamry: 
Coronary Arteries Disease
Secondary:
GI Bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure caring for you at the ___ 
___. You were admitted to have an operation on your 
heart. Immediately before your surgery, the surgeons noticed 
that your blood counts were low and that the aneurysm in your 
heart was enlarged. As such, you were admitted to the hospital 
for ongoing management of these issues.

We performed a thorough workup of your anemia including 
enteroscopy and capsule imaging and found no evidence of ongoing 
bleeding. You had an endoscopy that showed small malformations 
in your small bowel that were not bleeding.  The 
gastroenterologists felt that you were safe to have your 
surgery.  We also performed an MRI of your heart to further 
evaluate your ventricular aneurysm.    You are being discharged 
home to come back next week for your bypass surgery.

During this admission, we made no changes to your medications. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___